US07569600B2
5-Cyclohex-1-enyl-3-[(1-formyl-piperidin-4-yl)-(trans-4-methycyclo-hexanecarbonyl)-amino]-thiophene-2-carboxylic acid (compound #98)
5-Cyclohex-1-enyl-3-[(1-formyl-piperidin-4-yl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester was hydrolysed with lithium hydroxide according to previously described procedures (example 3, step VIII) to give the title compound.

reactant | 5-Cyclohex-1-enyl-3-[(1-formyl-piperidin-4-yl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCN(CC1)C=O)C1=CCCCC1 | C26H36N2O4S
reactant | lithium hydroxide | [OH-].[Li+]
product | 5-Cyclohex-1-enyl-3-[(1-formyl-piperidin-4-yl)-(trans-4-methycyclo-hexanecarbonyl)-amino]-thiophene-2-carboxylic acid | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCN(CC1)C=O | C25H34N2O4S
